US09302120B2
A mixture of 542 mg (0.71 mmol) of (2′S,3R,4′R,5′S)-6-chloro-4′-(3-chloro-2-fluorophenyl)-1′-((1S,2R)-2-hydroxy-1,2-diphenylethyl)-N-((trans)-4-hydroxycyclohexyl)-2′-neopentyl-2-oxospiro[indoline-3,3′-pyrrolidine]-5′-carboxamide in 10 mL of ethanol was cooled to 0° C. and 989 mg (1.79 mmol) of ceric ammonium nitrate was added slowly via spatula in 15 min. The reaction mixture was stirred at 0° C. for 1 hour, upon which it was treated with 4 mL of toluene, 2 mL of ethanol, 5 mL of saturated brine and 3 mL of ethyl acetate, and decanted. The organic phase was separated and the aqueous phase was extracted with 2×5 mL of ethyl acetate. The organic phases were combined and washed with 3 mL of 5% sodium carbonate. After decantation, the aqueous phase was diluted with water and reextracted with 10 mL of ethyl acetate. The organic phases were combined and successively washed with 2 mL of 11% sodium disulfite and 2 mL of saturated brine. It was then dried over magnesium sulfate and concentrated to dryness under reduced pressure. 222 mg of the residue was purified by flash chromatography on a 40 g silica cartridge (15 μm silica gel; eluting solvent: dichloromethane/acetone 75/25 v/v followed by 65/35 v/v; flow: 30 mL/min) 0.183 g of an off-white meringue was obtained, taken up twice in diisopropyl oxide and dried at 25° C. under reduced pressure. 157 mg of (2′S,3R,4′R,5′S)-6-chloro-4′-(3-chloro-2-fluorophenyl)-N-((trans)-4-hydroxy-cyclohexyl)-2′-neopentyl-2-oxospiro[indoline-3,3′-pyrrolidine]-5′-carboxamide were obtained as a white amorphous solid. mp: 176° C. (Kofler); LC-MS: tR (min)=1.13 (91%) and 1.03 (9%); [M+H]+: m/z 562; [M−H]−: m/z 560 (method C); 1H NMR (400 MHz, DMSO-d6): 0.76 (s, 9H); 0.85 (dd, J=1.8 and 14.3 Hz, 1

reactant | (2′S,3R,4′R,5′S)-6-chloro-4′-(3-chloro-2-fluorophenyl)-1′-((1S,2R)-2-hydroxy-1,2-diphenylethyl)-N-((trans)-4-hydroxycyclohexyl)-2′-neopentyl-2-oxospiro[indoline-3,3′-pyrrolidine]-5′-carboxamide | 0.71 mmol, 542 mg | ClC1=CC=C2C(=C1)NC([C@@]21[C@@H](N([C@@H]([C@H]1C1=C(C(=CC=C1)Cl)F)C(=O)N[C@@H]1CC[C@H](CC1)O)[C@H]([C@@H](C1=CC=CC=C1)O)C1=CC=CC=C1)CC(C)(C)C)=O | C43H46Cl2FN3O4
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | brine | 5 mL | [Cl-].[Na+].O
solvent | diisopropyl oxide | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (2′S,3R,4′R,5′S)-6-chloro-4′-(3-chloro-2-fluorophenyl)-N-((trans)-4-hydroxy-cyclohexyl)-2′-neopentyl-2-oxospiro[indoline-3,3′-pyrrolidine]-5′-carboxamide | 157 mg | ClC1=CC=C2C(=C1)NC([C@@]21[C@@H](N[C@@H]([C@H]1C1=C(C(=CC=C1)Cl)F)C(=O)N[C@@H]1CC[C@H](CC1)O)CC(C)(C)C)=O | C29H34Cl2FN3O3
